US08067445B2
Step 2: (2′-{[Acetyl-(2-dimethylamino-ethyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: {2′-[(2-dimethylamino-ethylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester and acetyl chloride.

reactant | {2′-[(2-dimethylamino-ethylamino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCCN(C)C)=O | C22H27F3N2O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (2′-{[Acetyl-(2-dimethylamino-ethyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CCN(C)C)C(C)=O)=O | C24H29F3N2O4
